US07176227B2
Synthesis of 6-bromomethyl-2-methyl quinoline
In carbon tetrachloride (26 ml), 2,6-dimethylquinoline (manufactured by Tokyo Kasei Kogyo Co., Ltd.) (1.0398 g), N-bromosuccinimide (1.2353 g), and azobisisobutyronitrile (98.5 mg) were dissolved and then the whole was subjected to thermal reflux for 2 hours under an argon atmosphere. After the reaction, a precipitate was removed through filtration and then washed with water, followed by drying with magnesium sulfate. The solvent was distilled off and the residue was then purified through silica gel column chromatography (hexane/ethyl acetate), thereby obtaining the subject compound (427.3 mg) as a white solid.

reactant | 2,6-dimethylquinoline | 1.0398 g | CC1=NC2=CC=C(C=C2C=C1)C | C11H11N
reactant | N-bromosuccinimide | 1.2353 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 98.5 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 26 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6-bromomethyl-2-methyl quinoline | 427.3 mg | BrCC=1C=C2C=CC(=NC2=CC1)C | C11H10BrN
